### PR TITLE
[Merged by Bors] - feat(Data/Set): add `Set.encard_iUnion`

### PR DESCRIPTION
**Pull request by chrisflav**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Card/Arithmetic.lean [hunk 1]
```diff
@@ -36,6 +37,10 @@ theorem Finset.exists_disjoint_union_of_even_card_iff [DecidableEq α] (s : Fins
     rintro ⟨t, u, rfl, hdtu, hctu⟩
     simp_all⟩
 
+@[simp]
+lemma finsum_one {s : Set α} (hs : s.Finite) : ∑ᶠ i ∈ s, 1 = s.ncard := by
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Card/Arithmetic.lean:41]: If `s` is infinite, then both sides junk to zero, right?
```suggestion
lemma finsum_one (s : Set α) : ∑ᶠ i ∈ s, 1 = s.ncard := by
```

File: Mathlib/Data/Set/Finite/Lattice.lean [hunk 2]
```diff
@@ -179,6 +179,14 @@ lemma finite_iUnion_iff {ι : Type*} {s : ι → Set α} (hs : Pairwise fun i j
     exact .of_injective u u_inj
   mpr h := h.2.iUnion (fun _ _ ↦ h.1 _) (by simp [not_nonempty_iff_eq_empty])
 
+lemma Infinite.iUnion {ι : Sort*} {s : ι → Set α} {i : ι} (hi : (s i).Infinite) :
+    (⋃ i, s i).Infinite :=
+  fun h ↦ hi (h.subset (Set.subset_iUnion s i))
+
+lemma Infinite.biUnion' {ι : Type*} {s : ι → Set α} {t : Set ι}
+    {i : ι} (h : i ∈ t) (hi : (s i).Infinite) : (⋃ i ∈ t, s i).Infinite :=
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Finite/Lattice.lean:187]:
```suggestion
lemma Infinite.iUnion₂ {ι : Sort*} {κ : ι → Sort*} {s : ∀ i, κ i → Set α} (i : ι) (j : κ i) (hij : (s i j).Infinite) :
    (⋃ i j, s i j).Infinite :=
```

File: Mathlib/Data/Set/Finite/Lattice.lean [hunk 3]
```diff
@@ -179,6 +179,14 @@ lemma finite_iUnion_iff {ι : Type*} {s : ι → Set α} (hs : Pairwise fun i j
     exact .of_injective u u_inj
   mpr h := h.2.iUnion (fun _ _ ↦ h.1 _) (by simp [not_nonempty_iff_eq_empty])
 
+lemma Infinite.iUnion {ι : Sort*} {s : ι → Set α} {i : ι} (hi : (s i).Infinite) :
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Finite/Lattice.lean:182]: I think this is slightly better in this specific case, to simplify unification
```suggestion
lemma Infinite.iUnion {ι : Sort*} {s : ι → Set α} (i : ι) (hi : (s i).Infinite) :
```

File: Mathlib/Data/Set/Card/Arithmetic.lean [hunk 4]
```diff
@@ -79,4 +84,36 @@ theorem exists_union_disjoint_cardinal_eq_iff (s : Set α) :
...
+    rw [← this.cast_ncard_eq, ncard_biUnion ht h hs,
+      ← finsum_mem_congr rfl fun i hi ↦ (h i hi).cast_ncard_eq, Nat.cast_finsum_mem ht]
+  · simp only [not_forall] at h
+    obtain ⟨i, hi, (hn : (s i).Infinite)⟩ := h
+    rw [← Set.insert_diff_self_of_mem hi,
+      finsum_mem_insert _ (not_mem_diff_of_mem <| mem_singleton i) ht.diff]
+    simp [hn, hn.biUnion' hi]
+
+lemma encard_iUnion [Finite ι] {s : ι → Set α} (hs : Pairwise (Disjoint on s)) :
+    (⋃ i, s i).encard = ∑ᶠ i, (s i).encard := by
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Card/Arithmetic.lean:115]: This looks like the wrong lemma to have, in the sense that there's a perfectly fine lemma you could write which doesn't require `Finite ι`, namely by using `tsum` instead of `finsum`

File: Mathlib/Algebra/BigOperators/Finprod.lean [hunk 5]
```diff
@@ -1126,4 +1126,20 @@ theorem finprod_emb_domain (f : α ↪ β) [DecidablePred (· ∈ Set.range f)]
     (∏ᶠ b : β, if h : b ∈ Set.range f then g (Classical.choose h) else 1) = ∏ᶠ a : α, g a :=
   finprod_emb_domain' f.injective g
 
+lemma Nat.cast_finprod [Finite ι] {R : Type*} [CommSemiring R]
+    (f : ι → ℕ) : ↑(∏ᶠ x, f x : ℕ) = ∏ᶠ x, (f x : R) :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/BigOperators/Finprod.lean:1130]: nit:
```suggestion
lemma Nat.cast_finprod [Finite ι] {R : Type*} [CommSemiring R] (f : ι → ℕ) :
    ↑(∏ᶠ x, f x : ℕ) = ∏ᶠ x, (f x : R) :=
```
Same below

File: Mathlib/Algebra/BigOperators/Finprod.lean [hunk 6]
```diff
@@ -1126,4 +1126,20 @@ theorem finprod_emb_domain (f : α ↪ β) [DecidablePred (· ∈ Set.range f)]
...
+  (Nat.castRingHom R).map_finprod <| Set.toFinite (Function.mulSupport f)
+
+lemma Nat.cast_finprod_mem {s : Set ι} (hs : s.Finite) {R : Type*}
+    [CommSemiring R] (f : ι → ℕ) : ↑(∏ᶠ x ∈ s, f x : ℕ) = ∏ᶠ x ∈ s, (f x : R) :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/BigOperators/Finprod.lean:1134]:
```suggestion
lemma Nat.cast_bfinprod {s : Set ι} (hs : s.Finite) {R : Type*}
    [CommSemiring R] (f : ι → ℕ) : ↑(∏ᶠ x ∈ s, f x : ℕ) = ∏ᶠ x ∈ s, (f x : R) :=
```
to match `biUnion` (although I have been made aware that some `finprod` lemma use the self-made `finprod_mem` convention?)

Comment (chrisflav) [reply Mathlib/Algebra/BigOperators/Finprod.lean]: Loogle finds 0 declarations containing `bfinprod` but 59 lemmas containing `finprod_mem`, same for `finsum`. And `finprod_mem` seems to me like a straightforward application of the symbol reading convention.

Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Finprod.lean]: Yes, but `mem_iUnion_mem` is quite confusing. Maybe bring it up on Zulip?

File: Mathlib/Data/Set/Card/Arithmetic.lean (hunk 4 above)
Comment (chrisflav) [reply Mathlib/Data/Set/Card/Arithmetic.lean]: I opened #24710 for the `tsum` version. It uses the finite version of `encard_biUnion` though. Also the `finsum` version needs much less imports, so I propose we leave the finite version of this lemma (renamed to `encard_iUnion_of_finite`) here.

File: Mathlib/Algebra/BigOperators/Finprod.lean (hunk 6 above)
Comment (chrisflav) [reply Mathlib/Algebra/BigOperators/Finprod.lean]: I opened https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Naming.20of.20.60finprod_mem.60.20lemmas/with/517100457. In any case, given that the current convention is clearly to use `finprod_mem` instead, I don't think we should start deviating from that in this PR.

File: Mathlib/Algebra/BigOperators/Finprod.lean [hunk 7]
```diff
@@ -1139,4 +1139,20 @@ theorem finprod_emb_domain (f : α ↪ β) [DecidablePred (· ∈ Set.range f)]
     (∏ᶠ b : β, if h : b ∈ Set.range f then g (Classical.choose h) else 1) = ∏ᶠ a : α, g a :=
   finprod_emb_domain' f.injective g
 
+lemma Nat.cast_finprod [Finite ι] {R : Type*} [CommSemiring R] (f : ι → ℕ) :
+    ↑(∏ᶠ x, f x : ℕ) = ∏ᶠ x, (f x : R) :=
+  (Nat.castRingHom R).map_finprod <| Set.toFinite (Function.mulSupport f)
```
Comment (YaelDillies) [inline Mathlib/Algebra/BigOperators/Finprod.lean]:
```suggestion
  (Nat.castRingHom R).map_finprod (Function.mulSupport f).toFinite
```
Same below

**Review by YaelDillies — COMMENTED** [review]
Apologies, I forget to press Send a month ago 😓

File: Mathlib/Algebra/BigOperators/Finprod.lean [hunk 8]
```diff
@@ -1139,4 +1139,20 @@ theorem finprod_emb_domain (f : α ↪ β) [DecidablePred (· ∈ Set.range f)]
     (∏ᶠ b : β, if h : b ∈ Set.range f then g (Classical.choose h) else 1) = ∏ᶠ a : α, g a :=
   finprod_emb_domain' f.injective g
 
+lemma Nat.cast_finprod [Finite ι] {R : Type*} [CommSemiring R] (f : ι → ℕ) :
+    ↑(∏ᶠ x, f x : ℕ) = ∏ᶠ x, (f x : R) :=
+  (Nat.castRingHom R).map_finprod <| (Function.mulSupport f).toFinite
```
Comment (YaelDillies) [inline Mathlib/Algebra/BigOperators/Finprod.lean]:
```suggestion
  (Nat.castRingHom R).map_finprod (Function.mulSupport f).toFinite
```

File: Mathlib/Algebra/BigOperators/Finprod.lean [hunk 9]
```diff
@@ -1139,4 +1139,20 @@ theorem finprod_emb_domain (f : α ↪ β) [DecidablePred (· ∈ Set.range f)]
...
+
+lemma Nat.cast_finprod_mem {s : Set ι} (hs : s.Finite) {R : Type*} [CommSemiring R] (f : ι → ℕ) :
+    ↑(∏ᶠ x ∈ s, f x : ℕ) = ∏ᶠ x ∈ s, (f x : R) :=
+  (Nat.castRingHom R).map_finprod_mem _ hs
+
+lemma Nat.cast_finsum [Finite ι] {M : Type*} [AddCommMonoidWithOne M]
+    (f : ι → ℕ) : ↑(∑ᶠ x, f x : ℕ) = ∑ᶠ x, (f x : M) :=
+  (Nat.castAddMonoidHom M).map_finsum <| (Function.support f).toFinite
```
Comment (YaelDillies) [inline Mathlib/Algebra/BigOperators/Finprod.lean]:
```suggestion
  (Nat.castAddMonoidHom M).map_finsum (Function.support f).toFinite
```
or maybe even
```suggestion
  (Nat.castAddMonoidHom M).map_finsum f.support.toFinite
```
works?

File: Mathlib/Data/Set/Card/Arithmetic.lean [hunk 10]
```diff
@@ -6,6 +6,7 @@ Authors: Pim Otte
 
 import Mathlib.Data.Set.Card
 import Mathlib.SetTheory.Cardinal.Arithmetic
+import Mathlib.Algebra.BigOperators.Finprod
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Card/Arithmetic.lean]:
```suggestion
import Mathlib.Algebra.BigOperators.Finprod
import Mathlib.Data.Set.Card
import Mathlib.SetTheory.Cardinal.Arithmetic
```

File: Mathlib/Data/Set/Finite/Lattice.lean [hunk 11]
```diff
@@ -179,6 +179,14 @@ lemma finite_iUnion_iff {ι : Type*} {s : ι → Set α} (hs : Pairwise fun i j
     exact .of_injective u u_inj
   mpr h := h.2.iUnion (fun _ _ ↦ h.1 _) (by simp [not_nonempty_iff_eq_empty])
 
+lemma Infinite.iUnion {ι : Sort*} {s : ι → Set α} (i : ι) (hi : (s i).Infinite) :
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Finite/Lattice.lean]:
```suggestion
protected lemma Infinite.iUnion {ι : Sort*} {s : ι → Set α} (i : ι) (hi : (s i).Infinite) :
```

File: Mathlib/Algebra/BigOperators/Finprod.lean (hunk 9 above)
Comment (chrisflav) [reply Mathlib/Algebra/BigOperators/Finprod.lean]: Indeed it does, TIL. It never occurred to me that `Function` works as a namespace.

File: Mathlib/Algebra/BigOperators/Finprod.lean [hunk 12]
```diff
@@ -1145,4 +1145,20 @@ theorem finprod_emb_domain (f : α ↪ β) [DecidablePred (· ∈ Set.range f)]
     (∏ᶠ b : β, if h : b ∈ Set.range f then g (Classical.choose h) else 1) = ∏ᶠ a : α, g a :=
   finprod_emb_domain' f.injective g
 
+lemma Nat.cast_finprod [Finite ι] {R : Type*} [CommSemiring R] (f : ι → ℕ) :
+    ↑(∏ᶠ x, f x : ℕ) = ∏ᶠ x, (f x : R) :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/BigOperators/Finprod.lean:1150]:
```suggestion
@[simp, norm_cast]
lemma Nat.cast_finprod [Finite ι] {R : Type*} [CommSemiring R] (f : ι → ℕ) :
    ↑(∏ᶠ x, f x : ℕ) = ∏ᶠ x, (f x : R) :=
```
Same below

File: Mathlib/Data/Set/Card/Arithmetic.lean [hunk 13]
```diff
@@ -79,4 +89,35 @@ theorem exists_union_disjoint_cardinal_eq_iff (s : Set α) :
...
+    rw [← this.cast_ncard_eq, ncard_biUnion ht h hs,
+      ← finsum_mem_congr rfl fun i hi ↦ (h i hi).cast_ncard_eq, Nat.cast_finsum_mem ht]
+  · simp only [not_forall] at h
+    obtain ⟨i, hi, (hn : (s i).Infinite)⟩ := h
+    rw [← Set.insert_diff_self_of_mem hi,
+      finsum_mem_insert _ (notMem_diff_of_mem <| mem_singleton i) ht.diff]
+    simp [hn]
+
+lemma encard_iUnion_of_finite [Finite ι] {s : ι → Set α} (hs : Pairwise (Disjoint on s)) :
+    (⋃ i, s i).encard = ∑ᶠ i, (s i).encard := by
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Card/Arithmetic.lean:119]: Why does this need `Finite ι`?

File: Mathlib/Data/Set/Card/Arithmetic.lean [hunk 14]
```diff
@@ -79,4 +89,35 @@ theorem exists_union_disjoint_cardinal_eq_iff (s : Set α) :
...
+  rw [← finsum_mem_univ, ← finite_univ.encard_biUnion (fun a _ b _ hab ↦ hs hab)]
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Card/Arithmetic.lean:120]: I think the issue is that you are going through `finsum`

Comment (chrisflav) [reply Mathlib/Data/Set/Card/Arithmetic.lean:120]: Do you remember the discussion above? In particular my response here: https://github.com/leanprover-community/mathlib4/pull/23849#discussion_r2081563660.

Comment (YaelDillies) [reply Mathlib/Data/Set/Card/Arithmetic.lean:120]: Ah right, sorry!

File: Mathlib/Data/Set/Card/Arithmetic.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/Data/Set/Card/Arithmetic.lean:119]: For the same reason

File: Mathlib/Data/Set/Card/Arithmetic.lean [hunk 15]
```diff
@@ -79,4 +89,35 @@ theorem exists_union_disjoint_cardinal_eq_iff (s : Set α) :
...
+lemma ncard_biUnion {t : Set ι} (ht : t.Finite) {s : ι → Set α} (hs : ∀ i ∈ t, (s i).Finite)
+    (h : t.PairwiseDisjoint s) : (⋃ i ∈ t, s i).ncard = ∑ᶠ i ∈ t, (s i).ncard := by
+  rw [← finsum_one, finsum_mem_biUnion h ht hs, finsum_mem_congr rfl fun i hi ↦ finsum_one]
+
+lemma ncard_iUnion [Finite ι] {s : ι → Set α} (hs : ∀ i, (s i).Finite)
+    (h : Pairwise (Disjoint on s)) : (⋃ i, s i).ncard = ∑ᶠ i : ι, (s i).ncard := by
+  rw [← finsum_mem_univ, ← Set.ncard_biUnion finite_univ (by simpa) (fun _ _ _ _ hab ↦ h hab)]
+  simp
+
+lemma Finite.encard_biUnion {t : Set ι} (ht : t.Finite) {s : ι → Set α}
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Card/Arithmetic.lean:105]: This name is inconsistent with `ncard_biUnion` above

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
